US04816460
1,3-Dimethyl-4,6-dioxo-2-thioxo-N-[4-(4-trifluoromethylphenoxy)phenyl]perhydropyrimidine-5-carboxamide
4-(4'-Trifluoromethylphenoxy)phenyl isocyanate (3.7 g.) was added to a stirred mixture of 1,3-dimethyl-2-thiobarbituric acid (2.3 g.) and triethylamine (1.7 ml.) in dry benzene (30 ml.). The mixture was refluxed for 12 hours. The mixture was evaporated in vacuo. Diethyl ether (10 ml.) was added to the gummy residue and the mixture was acidified with 1N hydrochloric acid. The mixture was filtered and the solid was washed with water and then ethanol.

reactant | 4-(4'-Trifluoromethylphenoxy)phenyl isocyanate | 3.7 g | FC(C1=CC=C(OC2=CC=C(C=C2)N=C=O)C=C1)(F)F | C14H8F3NO2
reactant | 1,3-dimethyl-2-thiobarbituric acid | 2.3 g | CN1C(=S)N(C(=O)CC1=O)C | C6H8N2O2S
reactant | triethylamine | 1.7 ml | C(C)N(CC)CC | C6H15N
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | 1,3-Dimethyl-4,6-dioxo-2-thioxo-N-[4-(4-trifluoromethylphenoxy)phenyl]perhydropyrimidine-5-carboxamide | CN1C(N(C(C(C1=O)C(=O)NC1=CC=C(C=C1)OC1=CC=C(C=C1)C(F)(F)F)=O)C)=S | C20H16F3N3O4S
